US04439444
In the same manner, by reacting 0.02 mole of 2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethylamine with 0.02 mole of 4-nitrophenyl 3-ethanesulfonamidobenzoate and, respectively, with 0.02 mole of 4-nitrophenyl 3-butanesulfonamidobenzoate, there is obtained

reactant | 2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethylamine | 0.02 mole | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 4-nitrophenyl 3-ethanesulfonamidobenzoate | 0.02 mole | C(C)S(=O)(=O)NC=1C=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C15H14N2O6S
product | 4-nitrophenyl 3-butanesulfonamidobenzoate | 0.02 mole | C(CCC)S(=O)(=O)NC=1C=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C17H18N2O6S
